US08222414B2
Step A: 1-BOC-5-methyl-7-nitro-indole-2-carboxylic acid methyl ester
5-Methyl-7-nitro-1H-indole-2-carboxylic acid methyl ester (24.0 g, 100 mmol) prepared in Preparation 15 was dissolved in dichloromethane (500 mL), to which were added triethylamine (84 mL, 601 mmol) and 4-(dimethylamino)pyridine (600 mg, 5 mmol). (BOC)2O (43.7 g, 200 mmol) dissolved in dichloromethane (100 mL) was added in drops thereto, and the mixture was stirred for 8 h at room temperature. After completion of the reaction, water was added. The reaction mixture was extracted with ethyl acetate, washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (34.0 g, Yield 100%).

reactant | 5-Methyl-7-nitro-1H-indole-2-carboxylic acid methyl ester | 100 mmol, 24.0 g | COC(=O)C=1NC2=C(C=C(C=C2C1)C)[N+](=O)[O-] | C11H10N2O4
reactant | triethylamine | 601 mmol, 84 mL | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 200 mmol, 43.7 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 5 mmol, 600 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-BOC-5-methyl-7-nitro-indole-2-carboxylic acid methyl ester | 34.0 g, Yield 100% | COC(=O)C=1N(C2=C(C=C(C=C2C1)C)[N+](=O)[O-])C(=O)OC(C)(C)C | C16H18N2O6
